*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.002/0.004


.subckt chiplet5
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
*-- p/g port #: 16/16
+nd_1_0_1000_500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_500 nd_1_0_3000_500 0.016324
rd_1_2_0_0_1 nd_1_0_3000_500 nd_1_0_5000_500 0.016324
rd_1_2_0_0_2 nd_1_0_5000_500 nd_1_0_7000_500 0.016324
rd_1_2_0_0_3 nd_1_0_7000_500 nd_1_0_9000_500 0.016324
rd_1_2_0_1_0 nd_1_0_1000_1500 nd_1_0_3000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_3000_1500 nd_1_0_5000_1500 0.016324
rd_1_2_0_1_2 nd_1_0_5000_1500 nd_1_0_7000_1500 0.016324
rd_1_2_0_1_3 nd_1_0_7000_1500 nd_1_0_9000_1500 0.016324
rd_1_2_0_2_0 nd_1_0_1000_2500 nd_1_0_3000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_3000_2500 nd_1_0_5000_2500 0.016324
rd_1_2_0_2_2 nd_1_0_5000_2500 nd_1_0_7000_2500 0.016324
rd_1_2_0_2_3 nd_1_0_7000_2500 nd_1_0_9000_2500 0.016324
rd_1_2_0_3_0 nd_1_0_1000_3500 nd_1_0_3000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_3000_3500 nd_1_0_5000_3500 0.016324
rd_1_2_0_3_2 nd_1_0_5000_3500 nd_1_0_7000_3500 0.016324
rd_1_2_0_3_3 nd_1_0_7000_3500 nd_1_0_9000_3500 0.016324
rd_1_2_0_4_0 nd_1_0_1000_4500 nd_1_0_3000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_3000_4500 nd_1_0_5000_4500 0.016324
rd_1_2_0_4_2 nd_1_0_5000_4500 nd_1_0_7000_4500 0.016324
rd_1_2_0_4_3 nd_1_0_7000_4500 nd_1_0_9000_4500 0.016324
rd_1_2_0_5_0 nd_1_0_1000_5500 nd_1_0_3000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_3000_5500 nd_1_0_5000_5500 0.016324
rd_1_2_0_5_2 nd_1_0_5000_5500 nd_1_0_7000_5500 0.016324
rd_1_2_0_5_3 nd_1_0_7000_5500 nd_1_0_9000_5500 0.016324
rd_1_2_0_6_0 nd_1_0_1000_6500 nd_1_0_3000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_3000_6500 nd_1_0_5000_6500 0.016324
rd_1_2_0_6_2 nd_1_0_5000_6500 nd_1_0_7000_6500 0.016324
rd_1_2_0_6_3 nd_1_0_7000_6500 nd_1_0_9000_6500 0.016324
rd_1_2_0_7_0 nd_1_0_1000_7500 nd_1_0_3000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_3000_7500 nd_1_0_5000_7500 0.016324
rd_1_2_0_7_2 nd_1_0_5000_7500 nd_1_0_7000_7500 0.016324
rd_1_2_0_7_3 nd_1_0_7000_7500 nd_1_0_9000_7500 0.016324
rd_1_2_0_8_0 nd_1_0_1000_8500 nd_1_0_3000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_3000_8500 nd_1_0_5000_8500 0.016324
rd_1_2_0_8_2 nd_1_0_5000_8500 nd_1_0_7000_8500 0.016324
rd_1_2_0_8_3 nd_1_0_7000_8500 nd_1_0_9000_8500 0.016324
rd_1_2_0_9_0 nd_1_0_1000_9500 nd_1_0_3000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_3000_9500 nd_1_0_5000_9500 0.016324
rd_1_2_0_9_2 nd_1_0_5000_9500 nd_1_0_7000_9500 0.016324
rd_1_2_0_9_3 nd_1_0_7000_9500 nd_1_0_9000_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_500 nd_2_0_1000_1500 0.016324
rd_2_1_0_0_1 nd_2_0_1000_1500 nd_2_0_1000_2500 0.016324
rd_2_1_0_0_2 nd_2_0_1000_2500 nd_2_0_1000_3500 0.016324
rd_2_1_0_0_3 nd_2_0_1000_3500 nd_2_0_1000_4500 0.016324
rd_2_1_0_0_4 nd_2_0_1000_4500 nd_2_0_1000_5500 0.016324
rd_2_1_0_0_5 nd_2_0_1000_5500 nd_2_0_1000_6500 0.016324
rd_2_1_0_0_6 nd_2_0_1000_6500 nd_2_0_1000_7500 0.016324
rd_2_1_0_0_7 nd_2_0_1000_7500 nd_2_0_1000_8500 0.016324
rd_2_1_0_0_8 nd_2_0_1000_8500 nd_2_0_1000_9500 0.016324
rd_2_1_0_1_0 nd_2_0_3000_500 nd_2_0_3000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_3000_1500 nd_2_0_3000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_3000_2500 nd_2_0_3000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_3000_3500 nd_2_0_3000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_3000_4500 nd_2_0_3000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_3000_5500 nd_2_0_3000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_3000_6500 nd_2_0_3000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_3000_7500 nd_2_0_3000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_3000_8500 nd_2_0_3000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_5000_500 nd_2_0_5000_1500 0.016324
rd_2_1_0_2_1 nd_2_0_5000_1500 nd_2_0_5000_2500 0.016324
rd_2_1_0_2_2 nd_2_0_5000_2500 nd_2_0_5000_3500 0.016324
rd_2_1_0_2_3 nd_2_0_5000_3500 nd_2_0_5000_4500 0.016324
rd_2_1_0_2_4 nd_2_0_5000_4500 nd_2_0_5000_5500 0.016324
rd_2_1_0_2_5 nd_2_0_5000_5500 nd_2_0_5000_6500 0.016324
rd_2_1_0_2_6 nd_2_0_5000_6500 nd_2_0_5000_7500 0.016324
rd_2_1_0_2_7 nd_2_0_5000_7500 nd_2_0_5000_8500 0.016324
rd_2_1_0_2_8 nd_2_0_5000_8500 nd_2_0_5000_9500 0.016324
rd_2_1_0_3_0 nd_2_0_7000_500 nd_2_0_7000_1500 0.016324
rd_2_1_0_3_1 nd_2_0_7000_1500 nd_2_0_7000_2500 0.016324
rd_2_1_0_3_2 nd_2_0_7000_2500 nd_2_0_7000_3500 0.016324
rd_2_1_0_3_3 nd_2_0_7000_3500 nd_2_0_7000_4500 0.016324
rd_2_1_0_3_4 nd_2_0_7000_4500 nd_2_0_7000_5500 0.016324
rd_2_1_0_3_5 nd_2_0_7000_5500 nd_2_0_7000_6500 0.016324
rd_2_1_0_3_6 nd_2_0_7000_6500 nd_2_0_7000_7500 0.016324
rd_2_1_0_3_7 nd_2_0_7000_7500 nd_2_0_7000_8500 0.016324
rd_2_1_0_3_8 nd_2_0_7000_8500 nd_2_0_7000_9500 0.016324
rd_2_1_0_4_0 nd_2_0_9000_500 nd_2_0_9000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_9000_1500 nd_2_0_9000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_9000_2500 nd_2_0_9000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_9000_3500 nd_2_0_9000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_9000_4500 nd_2_0_9000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_9000_5500 nd_2_0_9000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_9000_6500 nd_2_0_9000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_9000_7500 nd_2_0_9000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_9000_8500 nd_2_0_9000_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_500 nd_2_0_1000_500 0.005
rvd_1_0_0_1 nd_1_0_3000_500 nd_2_0_3000_500 0.005
rvd_1_0_0_2 nd_1_0_5000_500 nd_2_0_5000_500 0.005
rvd_1_0_0_3 nd_1_0_7000_500 nd_2_0_7000_500 0.005
rvd_1_0_0_4 nd_1_0_9000_500 nd_2_0_9000_500 0.005
rvd_1_0_1_0 nd_1_0_1000_1500 nd_2_0_1000_1500 0.005
rvd_1_0_1_1 nd_1_0_3000_1500 nd_2_0_3000_1500 0.005
rvd_1_0_1_2 nd_1_0_5000_1500 nd_2_0_5000_1500 0.005
rvd_1_0_1_3 nd_1_0_7000_1500 nd_2_0_7000_1500 0.005
rvd_1_0_1_4 nd_1_0_9000_1500 nd_2_0_9000_1500 0.005
rvd_1_0_2_0 nd_1_0_1000_2500 nd_2_0_1000_2500 0.005
rvd_1_0_2_1 nd_1_0_3000_2500 nd_2_0_3000_2500 0.005
rvd_1_0_2_2 nd_1_0_5000_2500 nd_2_0_5000_2500 0.005
rvd_1_0_2_3 nd_1_0_7000_2500 nd_2_0_7000_2500 0.005
rvd_1_0_2_4 nd_1_0_9000_2500 nd_2_0_9000_2500 0.005
rvd_1_0_3_0 nd_1_0_1000_3500 nd_2_0_1000_3500 0.005
rvd_1_0_3_1 nd_1_0_3000_3500 nd_2_0_3000_3500 0.005
rvd_1_0_3_2 nd_1_0_5000_3500 nd_2_0_5000_3500 0.005
rvd_1_0_3_3 nd_1_0_7000_3500 nd_2_0_7000_3500 0.005
rvd_1_0_3_4 nd_1_0_9000_3500 nd_2_0_9000_3500 0.005
rvd_1_0_4_0 nd_1_0_1000_4500 nd_2_0_1000_4500 0.005
rvd_1_0_4_1 nd_1_0_3000_4500 nd_2_0_3000_4500 0.005
rvd_1_0_4_2 nd_1_0_5000_4500 nd_2_0_5000_4500 0.005
rvd_1_0_4_3 nd_1_0_7000_4500 nd_2_0_7000_4500 0.005
rvd_1_0_4_4 nd_1_0_9000_4500 nd_2_0_9000_4500 0.005
rvd_1_0_5_0 nd_1_0_1000_5500 nd_2_0_1000_5500 0.005
rvd_1_0_5_1 nd_1_0_3000_5500 nd_2_0_3000_5500 0.005
rvd_1_0_5_2 nd_1_0_5000_5500 nd_2_0_5000_5500 0.005
rvd_1_0_5_3 nd_1_0_7000_5500 nd_2_0_7000_5500 0.005
rvd_1_0_5_4 nd_1_0_9000_5500 nd_2_0_9000_5500 0.005
rvd_1_0_6_0 nd_1_0_1000_6500 nd_2_0_1000_6500 0.005
rvd_1_0_6_1 nd_1_0_3000_6500 nd_2_0_3000_6500 0.005
rvd_1_0_6_2 nd_1_0_5000_6500 nd_2_0_5000_6500 0.005
rvd_1_0_6_3 nd_1_0_7000_6500 nd_2_0_7000_6500 0.005
rvd_1_0_6_4 nd_1_0_9000_6500 nd_2_0_9000_6500 0.005
rvd_1_0_7_0 nd_1_0_1000_7500 nd_2_0_1000_7500 0.005
rvd_1_0_7_1 nd_1_0_3000_7500 nd_2_0_3000_7500 0.005
rvd_1_0_7_2 nd_1_0_5000_7500 nd_2_0_5000_7500 0.005
rvd_1_0_7_3 nd_1_0_7000_7500 nd_2_0_7000_7500 0.005
rvd_1_0_7_4 nd_1_0_9000_7500 nd_2_0_9000_7500 0.005
rvd_1_0_8_0 nd_1_0_1000_8500 nd_2_0_1000_8500 0.005
rvd_1_0_8_1 nd_1_0_3000_8500 nd_2_0_3000_8500 0.005
rvd_1_0_8_2 nd_1_0_5000_8500 nd_2_0_5000_8500 0.005
rvd_1_0_8_3 nd_1_0_7000_8500 nd_2_0_7000_8500 0.005
rvd_1_0_8_4 nd_1_0_9000_8500 nd_2_0_9000_8500 0.005
rvd_1_0_9_0 nd_1_0_1000_9500 nd_2_0_1000_9500 0.005
rvd_1_0_9_1 nd_1_0_3000_9500 nd_2_0_3000_9500 0.005
rvd_1_0_9_2 nd_1_0_5000_9500 nd_2_0_5000_9500 0.005
rvd_1_0_9_3 nd_1_0_7000_9500 nd_2_0_7000_9500 0.005
rvd_1_0_9_4 nd_1_0_9000_9500 nd_2_0_9000_9500 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_500 0 726.68
rdesr_0_0_0_0 nd_1_0_1000_500 nd_1_0_1000_500_ci 726.68
cd_0_0_0_0 nd_1_0_1000_500_ci 0 2.75224e-12
rdload_0_0_0_1 nd_1_0_3000_500 0 72.686
rdesr_0_0_0_1 nd_1_0_3000_500 nd_1_0_3000_500_ci 72.686
cd_0_0_0_1 nd_1_0_3000_500_ci 0 2.75156e-11
rdload_0_0_0_2 nd_1_0_5000_500 0 84.8821
rdesr_0_0_0_2 nd_1_0_5000_500 nd_1_0_5000_500_ci 84.8821
cd_0_0_0_2 nd_1_0_5000_500_ci 0 2.35621e-11
rdload_0_0_0_3 nd_1_0_7000_500 0 2530.52
rdesr_0_0_0_3 nd_1_0_7000_500 nd_1_0_7000_500_ci 2530.52
cd_0_0_0_3 nd_1_0_7000_500_ci 0 7.90353e-13
rdload_0_0_0_4 nd_1_0_9000_500 0 77.9246
rdesr_0_0_0_4 nd_1_0_9000_500 nd_1_0_9000_500_ci 77.9246
cd_0_0_0_4 nd_1_0_9000_500_ci 0 2.56658e-11
rdload_0_0_0_5 nd_1_0_1000_1500 0 280.132
rdesr_0_0_0_5 nd_1_0_1000_1500 nd_1_0_1000_1500_ci 280.132
cd_0_0_0_5 nd_1_0_1000_1500_ci 0 7.13948e-12
rdload_0_0_0_6 nd_1_0_3000_1500 0 76.838
rdesr_0_0_0_6 nd_1_0_3000_1500 nd_1_0_3000_1500_ci 76.838
cd_0_0_0_6 nd_1_0_3000_1500_ci 0 2.60288e-11
rdload_0_0_0_7 nd_1_0_5000_1500 0 92.0078
rdesr_0_0_0_7 nd_1_0_5000_1500 nd_1_0_5000_1500_ci 92.0078
cd_0_0_0_7 nd_1_0_5000_1500_ci 0 2.17373e-11
rdload_0_0_0_8 nd_1_0_7000_1500 0 112.876
rdesr_0_0_0_8 nd_1_0_7000_1500 nd_1_0_7000_1500_ci 112.876
cd_0_0_0_8 nd_1_0_7000_1500_ci 0 1.77186e-11
rdload_0_0_0_9 nd_1_0_9000_1500 0 71.3265
rdesr_0_0_0_9 nd_1_0_9000_1500 nd_1_0_9000_1500_ci 71.3265
cd_0_0_0_9 nd_1_0_9000_1500_ci 0 2.80401e-11
rdload_0_0_0_10 nd_1_0_1000_2500 0 100.397
rdesr_0_0_0_10 nd_1_0_1000_2500 nd_1_0_1000_2500_ci 100.397
cd_0_0_0_10 nd_1_0_1000_2500_ci 0 1.99209e-11
rdload_0_0_0_11 nd_1_0_3000_2500 0 125.928
rdesr_0_0_0_11 nd_1_0_3000_2500 nd_1_0_3000_2500_ci 125.928
cd_0_0_0_11 nd_1_0_3000_2500_ci 0 1.58821e-11
rdload_0_0_0_12 nd_1_0_5000_2500 0 76.6545
rdesr_0_0_0_12 nd_1_0_5000_2500 nd_1_0_5000_2500_ci 76.6545
cd_0_0_0_12 nd_1_0_5000_2500_ci 0 2.60911e-11
rdload_0_0_0_13 nd_1_0_7000_2500 0 90.9622
rdesr_0_0_0_13 nd_1_0_7000_2500 nd_1_0_7000_2500_ci 90.9622
cd_0_0_0_13 nd_1_0_7000_2500_ci 0 2.19872e-11
rdload_0_0_0_14 nd_1_0_9000_2500 0 144.205
rdesr_0_0_0_14 nd_1_0_9000_2500 nd_1_0_9000_2500_ci 144.205
cd_0_0_0_14 nd_1_0_9000_2500_ci 0 1.38692e-11
rdload_0_0_0_15 nd_1_0_1000_3500 0 82.1873
rdesr_0_0_0_15 nd_1_0_1000_3500 nd_1_0_1000_3500_ci 82.1873
cd_0_0_0_15 nd_1_0_1000_3500_ci 0 2.43347e-11
rdload_0_0_0_16 nd_1_0_3000_3500 0 350.331
rdesr_0_0_0_16 nd_1_0_3000_3500 nd_1_0_3000_3500_ci 350.331
cd_0_0_0_16 nd_1_0_3000_3500_ci 0 5.70888e-12
rdload_0_0_0_17 nd_1_0_5000_3500 0 1219.17
rdesr_0_0_0_17 nd_1_0_5000_3500 nd_1_0_5000_3500_ci 1219.17
cd_0_0_0_17 nd_1_0_5000_3500_ci 0 1.64047e-12
rdload_0_0_0_18 nd_1_0_7000_3500 0 89.4741
rdesr_0_0_0_18 nd_1_0_7000_3500 nd_1_0_7000_3500_ci 89.4741
cd_0_0_0_18 nd_1_0_7000_3500_ci 0 2.23528e-11
rdload_0_0_0_19 nd_1_0_9000_3500 0 535.833
rdesr_0_0_0_19 nd_1_0_9000_3500 nd_1_0_9000_3500_ci 535.833
cd_0_0_0_19 nd_1_0_9000_3500_ci 0 3.73251e-12
rdload_0_0_0_20 nd_1_0_1000_4500 0 70.1115
rdesr_0_0_0_20 nd_1_0_1000_4500 nd_1_0_1000_4500_ci 70.1115
cd_0_0_0_20 nd_1_0_1000_4500_ci 0 2.8526e-11
rdload_0_0_0_21 nd_1_0_3000_4500 0 199.015
rdesr_0_0_0_21 nd_1_0_3000_4500 nd_1_0_3000_4500_ci 199.015
cd_0_0_0_21 nd_1_0_3000_4500_ci 0 1.00495e-11
rdload_0_0_0_22 nd_1_0_5000_4500 0 1144.78
rdesr_0_0_0_22 nd_1_0_5000_4500 nd_1_0_5000_4500_ci 1144.78
cd_0_0_0_22 nd_1_0_5000_4500_ci 0 1.74706e-12
rdload_0_0_0_23 nd_1_0_7000_4500 0 163.842
rdesr_0_0_0_23 nd_1_0_7000_4500 nd_1_0_7000_4500_ci 163.842
cd_0_0_0_23 nd_1_0_7000_4500_ci 0 1.22068e-11
rdload_0_0_0_24 nd_1_0_9000_4500 0 243.114
rdesr_0_0_0_24 nd_1_0_9000_4500 nd_1_0_9000_4500_ci 243.114
cd_0_0_0_24 nd_1_0_9000_4500_ci 0 8.22659e-12
rdload_0_0_0_25 nd_1_0_1000_5500 0 505.33
rdesr_0_0_0_25 nd_1_0_1000_5500 nd_1_0_1000_5500_ci 505.33
cd_0_0_0_25 nd_1_0_1000_5500_ci 0 3.95781e-12
rdload_0_0_0_26 nd_1_0_3000_5500 0 81.1601
rdesr_0_0_0_26 nd_1_0_3000_5500 nd_1_0_3000_5500_ci 81.1601
cd_0_0_0_26 nd_1_0_3000_5500_ci 0 2.46427e-11
rdload_0_0_0_27 nd_1_0_5000_5500 0 324.102
rdesr_0_0_0_27 nd_1_0_5000_5500 nd_1_0_5000_5500_ci 324.102
cd_0_0_0_27 nd_1_0_5000_5500_ci 0 6.17089e-12
rdload_0_0_0_28 nd_1_0_7000_5500 0 120.372
rdesr_0_0_0_28 nd_1_0_7000_5500 nd_1_0_7000_5500_ci 120.372
cd_0_0_0_28 nd_1_0_7000_5500_ci 0 1.66151e-11
rdload_0_0_0_29 nd_1_0_9000_5500 0 159.351
rdesr_0_0_0_29 nd_1_0_9000_5500 nd_1_0_9000_5500_ci 159.351
cd_0_0_0_29 nd_1_0_9000_5500_ci 0 1.25509e-11
rdload_0_0_0_30 nd_1_0_1000_6500 0 461.055
rdesr_0_0_0_30 nd_1_0_1000_6500 nd_1_0_1000_6500_ci 461.055
cd_0_0_0_30 nd_1_0_1000_6500_ci 0 4.33788e-12
rdload_0_0_0_31 nd_1_0_3000_6500 0 135.819
rdesr_0_0_0_31 nd_1_0_3000_6500 nd_1_0_3000_6500_ci 135.819
cd_0_0_0_31 nd_1_0_3000_6500_ci 0 1.47254e-11
rdload_0_0_0_32 nd_1_0_5000_6500 0 80.1057
rdesr_0_0_0_32 nd_1_0_5000_6500 nd_1_0_5000_6500_ci 80.1057
cd_0_0_0_32 nd_1_0_5000_6500_ci 0 2.4967e-11
rdload_0_0_0_33 nd_1_0_7000_6500 0 118.792
rdesr_0_0_0_33 nd_1_0_7000_6500 nd_1_0_7000_6500_ci 118.792
cd_0_0_0_33 nd_1_0_7000_6500_ci 0 1.68362e-11
rdload_0_0_0_34 nd_1_0_9000_6500 0 156.967
rdesr_0_0_0_34 nd_1_0_9000_6500 nd_1_0_9000_6500_ci 156.967
cd_0_0_0_34 nd_1_0_9000_6500_ci 0 1.27415e-11
rdload_0_0_0_35 nd_1_0_1000_7500 0 235.411
rdesr_0_0_0_35 nd_1_0_1000_7500 nd_1_0_1000_7500_ci 235.411
cd_0_0_0_35 nd_1_0_1000_7500_ci 0 8.49577e-12
rdload_0_0_0_36 nd_1_0_3000_7500 0 105.64
rdesr_0_0_0_36 nd_1_0_3000_7500 nd_1_0_3000_7500_ci 105.64
cd_0_0_0_36 nd_1_0_3000_7500_ci 0 1.89322e-11
rdload_0_0_0_37 nd_1_0_5000_7500 0 186.259
rdesr_0_0_0_37 nd_1_0_5000_7500 nd_1_0_5000_7500_ci 186.259
cd_0_0_0_37 nd_1_0_5000_7500_ci 0 1.07377e-11
rdload_0_0_0_38 nd_1_0_7000_7500 0 307.443
rdesr_0_0_0_38 nd_1_0_7000_7500 nd_1_0_7000_7500_ci 307.443
cd_0_0_0_38 nd_1_0_7000_7500_ci 0 6.50526e-12
rdload_0_0_0_39 nd_1_0_9000_7500 0 117.388
rdesr_0_0_0_39 nd_1_0_9000_7500 nd_1_0_9000_7500_ci 117.388
cd_0_0_0_39 nd_1_0_9000_7500_ci 0 1.70375e-11
rdload_0_0_0_40 nd_1_0_1000_8500 0 153.33
rdesr_0_0_0_40 nd_1_0_1000_8500 nd_1_0_1000_8500_ci 153.33
cd_0_0_0_40 nd_1_0_1000_8500_ci 0 1.30437e-11
rdload_0_0_0_41 nd_1_0_3000_8500 0 104.246
rdesr_0_0_0_41 nd_1_0_3000_8500 nd_1_0_3000_8500_ci 104.246
cd_0_0_0_41 nd_1_0_3000_8500_ci 0 1.91854e-11
rdload_0_0_0_42 nd_1_0_5000_8500 0 131.142
rdesr_0_0_0_42 nd_1_0_5000_8500 nd_1_0_5000_8500_ci 131.142
cd_0_0_0_42 nd_1_0_5000_8500_ci 0 1.52507e-11
rdload_0_0_0_43 nd_1_0_7000_8500 0 78.3541
rdesr_0_0_0_43 nd_1_0_7000_8500 nd_1_0_7000_8500_ci 78.3541
cd_0_0_0_43 nd_1_0_7000_8500_ci 0 2.55251e-11
rdload_0_0_0_44 nd_1_0_9000_8500 0 285.628
rdesr_0_0_0_44 nd_1_0_9000_8500 nd_1_0_9000_8500_ci 285.628
cd_0_0_0_44 nd_1_0_9000_8500_ci 0 7.00211e-12
rdload_0_0_0_45 nd_1_0_1000_9500 0 152.064
rdesr_0_0_0_45 nd_1_0_1000_9500 nd_1_0_1000_9500_ci 152.064
cd_0_0_0_45 nd_1_0_1000_9500_ci 0 1.31523e-11
rdload_0_0_0_46 nd_1_0_3000_9500 0 84.7287
rdesr_0_0_0_46 nd_1_0_3000_9500 nd_1_0_3000_9500_ci 84.7287
cd_0_0_0_46 nd_1_0_3000_9500_ci 0 2.36048e-11
rdload_0_0_0_47 nd_1_0_5000_9500 0 399.788
rdesr_0_0_0_47 nd_1_0_5000_9500 nd_1_0_5000_9500_ci 399.788
cd_0_0_0_47 nd_1_0_5000_9500_ci 0 5.00265e-12
rdload_0_0_0_48 nd_1_0_7000_9500 0 130.808
rdesr_0_0_0_48 nd_1_0_7000_9500 nd_1_0_7000_9500_ci 130.808
cd_0_0_0_48 nd_1_0_7000_9500_ci 0 1.52896e-11
rdload_0_0_0_49 nd_1_0_9000_9500 0 277.61
rdesr_0_0_0_49 nd_1_0_9000_9500 nd_1_0_9000_9500_ci 277.61
cd_0_0_0_49 nd_1_0_9000_9500_ci 0 7.20434e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_1500 nd0 'dcap_int_val158'
cd_add_cap1 nd_1_0_7000_1500 nd1 'dcap_int_val159'
cd_add_cap2 nd_1_0_3000_3500 nd2 'dcap_int_val160'
cd_add_cap3 nd_1_0_7000_3500 nd3 'dcap_int_val161'
cd_add_cap4 nd_1_0_3000_5500 nd4 'dcap_int_val162'
cd_add_cap5 nd_1_0_7000_5500 nd5 'dcap_int_val163'
cd_add_cap6 nd_1_0_3000_8500 nd6 'dcap_int_val164'
cd_add_cap7 nd_1_0_7000_8500 nd7 'dcap_int_val165'
rd_add0 nd0 0 'esr37'
rd_add1 nd1 0 'esr38'
rd_add2 nd2 0 'esr39'
rd_add3 nd3 0 'esr40'
rd_add4 nd4 0 'esr41'
rd_add5 nd5 0 'esr42'
rd_add6 nd6 0 'esr43'
rd_add7 nd7 0 'esr44'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2500  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_4500  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6500  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1500  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_3500  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_5500  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3000_7500  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_2500  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_4500  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_6500  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_5000_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1500  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_3500  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_5500  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_7000_7500  0.001

.ends chiplet5
